datasets/10k_Mayr_OG.csv
SMILES Labelled
C12C3C4C5C1[Fe:32]23451678C2C1C6[C:31]7([CH+:20][C:41]13C4C5C6C1[Fe:42]5643179%10C3C1C7C9C3%10)C28.CN1C(C)(C)[NH:10][C@@H:61](CC2=CC=CC=C2)[C:62]1=[O:63]>>CN1C(C)(C)[NH+:10]([CH:20]([C:31]23C4C5C6C2[Fe:32]56432789C3C2C7C8C39)[C:41]23C4C5C6C2[Fe:42]56432789C3C2C7C8C39)[C@@H:61](CC2=CC=CC=C2)[C:62]1=[O:63] 10=20
"CC[Hg:11][CH2:10]C.[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>CC[Hg+:11].C[CH2:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[N:33][C:34]2=[N:35]O[N+:42]([O-])=[C:41]12 10,11=10,20;20,21=21,22;22,23=23"
"C[C:11]1([H:10])[O:12]CC[O:62]1.C[C:21]1=[CH:20]CCC[C:22]1=[O:23]>>C[C:11]1=[O+:12]CC[O:62]1.C[C:21]1=[C:22]([O-:23])CCC[CH:20]1[H:10] 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[N:12]([C:11](=[CH2:10])[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)CC1.F[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>F[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([CH2:10][C:11](=[N+:12]2CCCCC2)[C:62]2=[CH:63][CH:64]=[CH:65][CH:74]=[CH:73]2)([C:41]2=[CH:42][CH:43]=[C:44](F)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](F)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1 10,11=10,20;12=11,12"
"C1=CC=C([S:32]([CH:21]=[CH2:20])(=[O:33])=[O:34])C=C1.C[C:11]1=[N:10][CH:61]=[C:62](C)[NH:12]1>>C[C:11]1=[NH+:12][C:62](C)=[CH:61][N:10]1[CH2:20][CH-:21][S:32](C1=CC=CC=C1)(=[O:33])=[O:34] 10,11=10,20;12=11,12;20,21=21"
"C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[O+]#C[W-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C2C3C54>>C[C:34]1=[CH:33][CH:32]=[C:31]([C:20]([H:10])([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[C:54](C)[CH:55]=[CH:56]2)[CH:36]=[CH:35]1.[O+]#C[W-2:11]1234(C#[O+])(C#[O+])C5C1C2C3C54 10,11=10,20"
CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C-:10](C)C3=CC=CC=C3)=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1.C[N:37](C)[C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CC1=CC(C)=C([N+:63]2=[C:62]([C:71]([C:10](C)(C3=CC=CC=C3)[CH:20]([C:31]3=[CH:32][CH:33]=[C:34]([N:37](C)C)[CH:35]=[CH:36]3)[CH:41]=[CH:42][C:53]3=[CH:54][CH:55]=[C:56]([N:59](C)C)[CH:57]=[CH:58]3)=[O:72])[N:66](C3=C(C)C=C(C)C=C3C)CC2)C(C)=C1 10=20
"CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21]2/C3=CC=CC=C3[N+:23](C)=[CH:22]2)[CH:36]=[CH:35]1.C[N:12]1[C:11]([H:10])([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([H:10])[C:21]2=[CH:22][N:23](C)C3=CC=CC=C32)[CH:36]=[CH:35]1.C[N+:12]1=[C:11]([C:72]2=[CH:73][CH:74]=[C:75](C(F)(F)F)[CH:84]=[CH:83]2)[N:62](C)[C:93]2=[C:94]1C=CC=C2 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC(C)[Si:63](C(C)C)(C(C)C)[O:12][C:11](C)=[CH2:10].F[C:33]1=[CH:34][CH:35]=[CH:36][C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]2)=[CH:32]1>>CC(C)[Si:63](C(C)C)(C(C)C)[O+:12]=[C:11](C)[CH2:10][CH:20]([C:31]1=[CH:32][C:33](F)=[CH:34][CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][C:55](F)=[CH:56][CH:57]=[CH:58]1 10,11=10,20;12=11,12"
"Cl[C:21]1=[CH:20][C:32](=[O:33])[C:31](Cl)=[CH:30][C:22]1=[O:23].[H][C:11]1([H:10])[CH:12]=[CH:13][N:14](C2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O>>Cl[C:21]1=[C:22]([O-:23])[CH:30]=[C:31](Cl)[C:32](=[O:33])[CH:20]1[H:10].[H][C:11]1=[CH:12][CH:13]=[N+:14](C2=CC=CC=C2)[CH:63]=[C:62]1C(N)=O 10,11=10,20;12,13=11,12;14=13,14;20,21=21,22;22,23=23"
"Br[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1.[O+]#C[Re-5:11](C#[O+])(C#[O+])(C#[O+])([P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[H:10]>>Br[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([H:10])[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1.[O+]#C[Re-4:11](C#[O+])(C#[O+])(C#[O+])[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].C[Si:61](C)(C)[CH:10]=[N+:11]=[N-:12]>>CC(C)(C)[C:23]1=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32][C:21]([CH:20]([CH:10]([N+:11]#[N:12])[Si:61](C)(C)C)[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[CH:22]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:33][C:31](/[CH:20]=[C:21](C)/[N:22]=[N:23]/[C:24](N)=[O:25])=[O:32].C[C:11]1=[N:10][CH:61]=[CH:62][NH:12]1>>CC[O:33][C:31]([CH:20]([N:10]1[C:11](C)=[NH+:12][CH:62]=[CH:61]1)[C:21](C)=[N:22][N:23]=[C:24](N)[O-:25])=[O:32] 10,11=10,20;12=11,12;20,21=21,22;22,23=23,24;24,25=25"
